US04868132
Methyl 4-(2-methylaminopropyl)phenylacetate
To 25 mL of methanol 0.59 g of methyl 4-(2-oxopropyl)phenylacetate, prepared above, was added and dissolved. Then with stirring the following were added: 2.0 g methylamine hydrochloride, 0.3 g sodium cyanoborohydride, and 0.3 mL of triethylamine. After approximately 12 hours an additional 0.1 g of sodium cyanoborohydride was added to the mixture. After 3 hours more, the reaction was diluted with 100 mL of 0.1M hydrochloric acid, washed with diethylether, and the resulting aqueous phase was basified to a pH of 12 by addition of 5 mL portions of 1N sodiumhydroxide solution. This was extracted three times with 100 mL portions of diethylether, combined extracts washed with brine and dried. The solvents were removed in vacuo to yield 0.44 g of a light yellow oil.

reactant | methanol | 25 mL, 0.59 g | CO | CH4O
reactant | methyl 4-(2-oxopropyl)phenylacetate | O=C(CC1=CC=C(C=C1)CC(=O)OC)C | C12H14O3
reactant | methylamine hydrochloride | 2.0 g | Cl.CN
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.1 g | C(#N)[BH3-].[Na+]
solvent | hydrochloric acid | 0.1M, 100 mL | Cl | ClH
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | Methyl 4-(2-methylaminopropyl)phenylacetate | 0.44 g | CNC(CC1=CC=C(C=C1)CC(=O)OC)C | C13H19NO2
